US08809369B2
A mixture of 2-[5-(4-tert-butyl-phenyl)-pyridin-3-yl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (1.0 g, 2.3 mmol) in ethanol (10 mL) and tetrahydrofuran (50 mL), 30% sodium hydroxide in water (10 mL). The reaction mixture was stirred at 60° C. for 12 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-[5-(4-tert-butyl-phenyl)-pyridin-3-yl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (0.87 g, 90%) as a white solid which was used for next step without further purification: MS (ESI) M+1=415.3.

reactant | 2-[5-(4-tert-butyl-phenyl)-pyridin-3-yl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 2.3 mmol, 1.0 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C=1C=NC=C(C1)C1=CC=C(C=C1)C(C)(C)C)(C)C | C29H34N2O2
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | 2-[5-(4-tert-butyl-phenyl)-pyridin-3-yl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.87 g, 90% | C(C)(C)(C)C1=CC=C(C=C1)C=1C=C(C=NC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C27H30N2O2
